US08049016B2
Synthesis of 4-methyl-N-(oxazol-4-ylmethyl)-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as describe in Example 12, making variations as required to replace (5-fluoropyridin-3-yl)methanamine with oxazol-4-ylmethanamine to react with 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid in place of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid in 48% yield: 1H NMR (300 MHz, CDCl3) δ 7.86 (s, 1H), 7.65 (s, 1H), 6.16-6.12 (m, 1H), 4.51 (d, J=5.4 Hz, 2H), 4.15-4.10 (m, 2H), 3.63-3.57 (m, 2H), 3.43-3.38 (m, 2H), 2.60 (s, 3H), 2.20-2.11 (m, 2H), 1.91-1.83 (m, 2H); 13C NMR (75 MHz, CDCl3) δ162.4, 157.3, 155.5, 152.8, 151.3, 151.2, 135.9, 135.8, 128.6, 124.9, 117.5, 42.9, 42.3, 41.9, 35.5, 31.7, 31.3, 30.9, 30.5, 20.2, 20.1, 17.2; MS (ES+) m/z 417.7 (M+1).

reactant | (5-fluoropyridin-3-yl)methanamine | FC=1C=C(C=NC1)CN | C6H7FN2
reactant | oxazol-4-ylmethanamine | O1C=NC(=C1)CN | C4H6N2O
reactant | 4-methyl-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CCCC(F)(F)F)=O | C12H14F3N3O3S
product | 4-methyl-N-(oxazol-4-ylmethyl)-2-(2-oxo-3-(4,4,4-trifluorobutyl)imidazolidin-1-yl)thiazole-5-carboxamide | 48% yield | CC=1N=C(SC1C(=O)NCC=1N=COC1)N1C(N(CC1)CCCC(F)(F)F)=O | C16H18F3N5O3S
